US06387919B1
4-[N′-(4-Nitro-2-oxo-1,2-dihydro-indol-3-ylidene)-hydrazino]benzenesulfonamide (Z isomer)
The title compound was prepared from 4-nitro-1H-indole-2,3dione (Gassman, et al., Journal of Organic Chemistry 1977, 42, 1344-8) and 4-sulfonamidophenylhydrazine hydrochloride according to Procedure G in 33% yield: 1H NMR (DMSO-d6): δ 7.23 (d, J=7.7 Hz, 1H), 7.31 (s, 2H), 7.47 (t, J=7.9 Hz, 1H), 7.56 (d, J=7.9 Hz, 2H), 7.59 (d, J=7.2 Hz, 1H), 7.83 (d, J=7.7 Hz, 2H), 11.59 (s, 1H), 13.20 (s, 1H); APCI−MS m/z 361 (M)−. Anal. Calcd for C14H11N5O5S: C, 46.54, H, 3.07; N, 19.38; S, 8.87. Found C, 46.62, H, 3.09; N, 19.46; S. 8.81.

reactant | 4-nitro-1H-indole-2,3dione | [N+](=O)([O-])C1=C2C(C(NC2=CC=C1)=O)=O | C8H4N2O4
reactant | 4-sulfonamidophenylhydrazine hydrochloride | C1=CC(=CC=C1NN)S(=O)(=O)N.Cl
product | 4-[N′-(4-Nitro-2-oxo-1,2-dihydro-indol-3-ylidene)-hydrazino]benzenesulfonamide | 33% yield | [N+](=O)([O-])C1=C2C(C(NC2=CC=C1)=O)=NNC1=CC=C(C=C1)S(=O)(=O)N | C14H11N5O5S
